US04123458
PREPARATION OF METHYL HYDROGEN α-(CYANOBENZYL)SUCCINATE
Into a 200 ml, one-neck flask is placed 35 grams of sodium methyl maleate (0.23 moles), 85 grams (0.73 moles) of phenyl acetonitrile and 80 g(1.1 moles) dimethyl formamide. The reaction mixture is heated to 135°-140° C. for 5 hours and then distilled in vacuo. The residue is extracted three times with 300 ml ether. The solid (56 grams) is then dissolved in water and acidified with 23 grams conc. HCl in 50 mls water. The liquid that separates out is dissolved in ether and washed with water to remove unreacted starting materials. The ether is distilled off to give a residue of 50 grams of product (yield: 88%). The structure is verified by NMR (in CDCl3):

reactant | sodium methyl maleate | 0.23 moles, 35 grams | C(\C=C/C(=O)[O-])(=O)OC.[Na+]
reactant | phenyl acetonitrile | 0.73 moles, 85 grams | C1(=CC=CC=C1)CC#N | C8H7N
reactant | dimethyl formamide | 1.1 moles, 80 g | CN(C=O)C | C3H7NO
product | METHYL HYDROGEN α-(CYANOBENZYL)SUCCINATE | 50 grams, yield: 88% | C(#N)C(C1=CC=CC=C1)C(C(=O)OC)CC(=O)O | C13H13NO4
